### PR TITLE
[Merged by Bors] - chore: remove set_option in Analysis.Analytic.Composition

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Composition.lean [hunk 1]
```diff
@@ -125,8 +124,8 @@ theorem applyComposition_single (p : FormalMultilinearSeries 𝕜 E F) {n : ℕ}
   convert Composition.single_embedding hn ⟨i, hi2⟩ using 1
   obtain ⟨j_val, j_property⟩ := j
   have : j_val = 0 := le_bot_iff.1 (Nat.lt_succ_iff.1 j_property)
-  congr!
-  simp
+  rw! [this]
```
Comment (Brian-Nugent) [inline Mathlib/Analysis/Analytic/Composition.lean:127]:
```suggestion
  rw! [le_bot_iff.1 (Nat.lt_succ_iff.1 j_property)]
```

Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Composition.lean:127]: I think it's more readable with the `have` spellt out explicitely, otherwise it's really hard to see what is going on.

Comment (themathqueen) [reply Mathlib/Analysis/Analytic/Composition.lean:127]: You can always do: `rw! [(le_bot_iff.1 (Nat.lt_succ_iff.1 j_property) : j_val = 0)]` to get the best of both worlds.

(I don't have a preference, both look fine to me)

Comment (sgouezel) [reply Mathlib/Analysis/Analytic/Composition.lean:127]: I stand by the fact that my version is more readable. I tend to favor readability over golfing.

Comment (themathqueen) [reply Mathlib/Analysis/Analytic/Composition.lean:127]: Readability is definitely better in the long run. Thanks!

maintainer merge

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
